US05859007
2-[3-(1H-Indazol-3-ylmethyl)-2,4-dioxo-5-pyrid-2-yl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl) acetamide
A solution of 0.35 g (0.77 mmol, 1.0 equiv) of 2-(2,4-dioxo-5-pyrid-2-yl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(4-methoxy-phenyl) acetamide, prepared as in Intermediate 36, in 7 mL of DMF is cooled in an ice/water bath. 0.85 mL (0.84 mmol, 1.1 equiv) of 1M NaN(TMS)2 in THF is added and the solution stirred at 0° C. for 10 min. A solution of 0.26 g (0.84 mmol, 1.1 equiv) of N-tert-butoxycarbonyl-3-bromomethyl-indazole in 3 mL of DMF is added and the resulting yellow solution stirred at RT for 1 h. The reaction is quenched with H2O, extracted with EtOAc (×3), washed with H2O (×2) and brine, dried over MgSO4 and concentrated to a brown oil. Purification by silica gel flash chromatography using EtOAc/hexane 1/1 as eluent followed by Si60 MPLC using EtOAc/hexane 1/1 as eluent gave 0.23 g of a white powder; low resolution MS (FAB) 689 (MH+). A portion of this compound is dissolved in 4N HCl in dioxane and stirred at 0° C. for 30 min, and then concentrated to a white foam. Purification by RP-18 MPLC using MeCN/H2O 3/2 containing 0.1% HCl as eluent gave 33 mg of the title compound HCl salt as an amorphous white powder: 1H NMR (d6 -DMSO, 400 MHz) δ8.47 (d, 1H, J=3.5), 8.0-7.0 (m, 15H), 4.79 (m,1H), 4.20 (m, 2H), 3.79 (s, 3H), 3.51 (dd, 1H, J=7, 15), 3.39 (dd, 1H, J=5, 15), 0.97 (dd, 6H, J=7, 14); low resolution MS (FAB)m/e 589 (MH+).

reactant | 2-(2,4-dioxo-5-pyrid-2-yl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(4-methoxy-phenyl) acetamide | 0.77 mmol, 0.35 g, 1.0 equiv | O=C1CC(N(C2=C(N1CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2)C2=NC=CC=C2)=O | C26H26N4O4
reactant | NaN(TMS)2 | 0.84 mmol, 1M, 0.85 mL, 1.1 equiv | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | N-tert-butoxycarbonyl-3-bromomethyl-indazole | 0.84 mmol, 0.26 g, 1.1 equiv | C(C)(C)(C)OC(=O)N1N=C(C2=CC=CC=C12)CBr | C13H15BrN2O2
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
solvent | THF | C1CCOC1 | C4H8O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 2-[3-(1H-Indazol-3-ylmethyl)-2,4-dioxo-5-pyrid-2-yl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl) acetamide | 0.23 g | N1N=C(C2=CC=CC=C12)CC1C(N(C2=C(N(C1=O)CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2)C2=NC=CC=C2)=O | C34H32N6O4
